US07566735B2
1-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-propanone
The title compound was prepared from 1-(4-bromophenyl)-1-propanone and 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole using a similar procedure to that described for Example 1.

reactant | 1-(4-bromophenyl)-1-propanone | BrC1=CC=C(C=C1)C(CC)=O | C9H9BrO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
product | 1-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-propanone | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)C(CC)=O)(F)F | C17H17F3N2O
